US07572784B2
2-Iodofluorobenzene (2.0 mL, 17 mmol) was dissolved in anhydrous THF (20 mL) under an argon atmosphere and cooled to −20° C. A solution of isopropyl magnesium chloride (8.5 mL, 17.0 mmol) was slowly added, and the solution was stirred for 20 min. 2-Nitro-5-methylbenzaldehyde (2.7 g, 16.5 mmol) in THF (20 mL) was then added, and the mixture was stirred for 20 min at −20° C. and then quenched with saturated aqueous NH4Cl. The mixture was partitioned between EtOAc (100 mL) and H2O (100 mL). The organic portion was collected, dried over MgSO4, filtered and evaporated in vacuo. This material was dissolved in anhydrous CH2Cl2 (80 mL). Silica gel (20.3 g) and pyridinium chlorochromate (5.4 g, 25 mmol) were then added and the suspension was stirred at room temperature for 3 h. The mixture was then filtered through silica gel. The filtrate was concentrated in vacuo and the resulting residue was purified by column chromatography (silica gel, hexanes:EtOAc, 3:2) to provide the 2-nitro-benzophenone (3.7 g, 14 mmol). The benzophenone was dissolved in glacial acetic acid (50 mL), MeOH (50 mL) and deionized H2O (10 mL). Iron powder (<10 micron, 1.0 g) was added with vigorous stirring and the suspension heated to 60° C. After 20 min, additional iron powder (2.0 g) was added and the mixture was stirred at 60° C. for 3 h. After cooling, silica gel (12.5 g) was added and the volatile components were removed in vacuo. The resulting powder was suspended in EtOAc (100 mL) and carefully treated with 1N NaOH until basic to litmus. The suspension was filtered and the organic portion was separated, washed with brine, dried over MgSO4, filtered and evaporated in vacuo. The resulting residue was purified by column chromatography (silica gel, hexanes:EtOAc, 1:3) to provide 1af (3.1 g, 94%) MS m/z=230 (M+H).

reactant | 2-Iodofluorobenzene | 17 mmol, 2.0 mL | IC1=C(C=CC=C1)F | C6H4FI
reactant | isopropyl magnesium chloride | 17.0 mmol, 8.5 mL | C(C)(C)[Mg]Cl
reactant | 2-Nitro-5-methylbenzaldehyde | 16.5 mmol, 2.7 g | [N+](=O)([O-])C1=C(C=O)C=C(C=C1)C | C8H7NO3
reactant | pyridinium chlorochromate | 25 mmol, 5.4 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-nitro-benzophenone | 14 mmol, 3.7 g | [N+](=O)([O-])C1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H9NO3
